US06054457
To a mixture of 2-(4-methoxycarbonylphenyl)methoxy-4-methylaniline (420 mg) and 37% formaldeyde solution (69.7 mg) in a mixture of methanol (10 ml) and actic acid (0.1 ml) was added soduim cyanoborohydride (146 mg) and the mixture was stirred at amibient temperature for 3 hours. The solution was diluted with ethyl acetate (30 ml) and washed successively with saturated aqueous sodium hydrogen carbonate, water and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by silica gel column (chloroform) to give 2-(4-methoxycarbonylphenyl)methoxy-4-methyl-N-methylaniline (356 mg).

reactant | 2-(4-methoxycarbonylphenyl)methoxy-4-methylaniline | 420 mg | COC(=O)C1=CC=C(C=C1)COC1=C(N)C=CC(=C1)C | C16H17NO3
reactant | formaldeyde | 69.7 mg | C=O | CH2O
reactant | cyanoborohydride | 146 mg | C(#N)[BH3-]
solvent | methanol | 10 ml | CO | CH4O
solvent | actic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-methoxycarbonylphenyl)methoxy-4-methyl-N-methylaniline | 356 mg | COC(=O)C1=CC=C(C=C1)COC1=C(NC)C=CC(=C1)C | C17H19NO3
